US07524823B2
A] Preparation of 2-Chloro-N-pyridin-2-ylmethyl-acetamide
To a solution of 0.5 g (4.6 mmol) 2-(aminomethyl)pyridine in 10 ml acetone at 0° C. were added 1.27 g (9.2 mmol) potassium carbonate and 0.57 g (5.1 mmol) 2-chloro acetylchloride. The reaction was stirred at 0° C. until no starting material remained and then poured onto ice water. The mixture was extracted twice with ethyl acetate. The combined organic layers were washed with aqueous NaHCO3 (sat.) and brine, dried over Na2SO4, filtered and concentrated in vacuo. The crude product was used directly for the next step. MS(ISP): 185.21 ([MH]+.

reactant | 2-(aminomethyl)pyridine | 4.6 mmol, 0.5 g | NCC1=NC=CC=C1 | C6H8N2
reactant | potassium carbonate | 9.2 mmol, 1.27 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloro acetylchloride | 5.1 mmol, 0.57 g | ClCC(=O)Cl | C2H2Cl2O
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 2-Chloro-N-pyridin-2-ylmethyl-acetamide | ClCC(=O)NCC1=NC=CC=C1 | C8H9ClN2O
